US07507740B2
(i) Production of tert-butyl 2-(4-{[3-chloro-4-(3-chlorophenoxy)phenyl)amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]ethylcarbamate
A mixture of tert-butyl 2-(4-chloro-5H-pyrrolo[3,2-d]pyrimidin-5-yl)ethylcarbamate (1.19 g), 3-chloro-4-(3-chlorophenoxy)aniline (1.22 g) and isopropyl alcohol (12.0 mL) was stirred at 80° C. for 15 hrs. Under ice-cooling, aqueous sodium hydrogen carbonate was added, and the mixture was extracted with ethyl acetate. The organic layer washed with brine, and dried over anhydrous magnesium sulfate. The solvent was concentrated under reduced pressure, and the residue was purified by silica gel chromatography (eluent:hexane/ethyl acetate=50/50→100/0), and washed with diisopropyl ether-hexane to give the title compound (1.69 g) as crystals.

reactant | tert-butyl 2-(4-chloro-5H-pyrrolo[3,2-d]pyrimidin-5-yl)ethylcarbamate | 1.19 g | ClC=1C2=C(N=CN1)C=CN2CCNC(OC(C)(C)C)=O | C13H17ClN4O2
reactant | 3-chloro-4-(3-chlorophenoxy)aniline | 1.22 g | ClC=1C=C(N)C=CC1OC1=CC(=CC=C1)Cl | C12H9Cl2NO
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | isopropyl alcohol | 12.0 mL | C(C)(C)O | C3H8O
product | tert-butyl 2-(4-{[3-chloro-4-(3-chlorophenoxy)phenyl)amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]ethylcarbamate | 1.69 g | ClC=1C=C(C=CC1OC1=CC(=CC=C1)Cl)NC=1C2=C(N=CN1)C=CN2CCNC(OC(C)(C)C)=O | C25H25Cl2N5O3
